US07368437B1
3-(2′,3′,5′-Tri-O-acetyl-β-D-ribofuranosyl)-1H-pyrazolo[4,3-d]pyrimidine (Ia)
A mixture of 2′,3′,5′-tri-O-acetyl-formycin A (prepared from formycin A by modification of the method from Synthesis (1989) 401) (1.1 g, 2.8 mmol) and n-butyl nitrite (2.6 ml, 22 mmol) in THF (30 ml) was heated at 50° C. for 25 h. After cooling to room temperature, the solvent was removed under reduced pressure. The mixture was dissolved in EtOH and reconcentrated (in each case twice). Silica gel chromatography using 2% MeOH in DCM gave compound (Ia) (0.49 g, 46%), the analysis of which confirmed the chemical identity with the product from method A.

reactant | formycin A | C1=NC2=C(NN=C2C(=N1)N)[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H13N5O4
reactant | n-butyl nitrite | 22 mmol, 2.6 ml | N(=O)OCCCC | C4H9NO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(2′,3′,5′-Tri-O-acetyl-β-D-ribofuranosyl)-1H-pyrazolo[4,3-d]pyrimidine | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)C1=NNC2=C1N=CN=C2 | C16H18N4O7
